US04364875
4-Chloro-3-phenoxy-6-nitro-N-allyl-aniline
A mixture of 63.3 gm of 6-chloro-4-nitro-1,3-diphenoxy-benzene, 120 ml of dioxane and allylamine in substantial excess over the stoichiometrically required amount was heated for 12 hours at 60° C. Thereafter, the dioxane was distilled off, the residue was dissolved in methylene chloride, the resulting solution was washed with dilute sodium hydroxide, the organic phase was dried with sodium sulfate, and the methylene chloride was distilled off. The residue was recrystallized from a mixture of toluene and hexane and further purified on a silicagel column, yielding 51 gm (83.6% of theory) of the title compound, m.p. 81°-82° C.

reactant | 6-chloro-4-nitro-1,3-diphenoxy-benzene | 63.3 gm | ClC1=CC(=C(C=C1OC1=CC=CC=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C18H12ClNO4
reactant | allylamine | C(C=C)N | C3H7N
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 4-Chloro-3-phenoxy-6-nitro-N-allyl-aniline | ClC1=C(C=C(NCC=C)C(=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C15H13ClN2O3
